US04119635
EXAMPLE 54: 1-Methyl-3-(o-tolyl)-5-phenyl-1,2,4-triazole
A mixture of 1.14 g. of o-toluimidic acid ethyl ester, 1.14 g. of 1-methyl-1-benzoylhydrazine and 0.1 g. of o-toluimidic acid ester hydrochloride, as a catalyst, is heated at about 100° C for 3 hours under reduced pressure (about 200 mm Hg) and then at about 120° C for 5 hours. The raw material is taken up with diethyl ether and the organic solution is washed with aqueous sodium bicarbonate and then dried over Na2SO4. After evaporation of the solvent, the product is distilled at 170° C/0.1 mm Hg. Yield 32%.

reactant | o-toluimidic acid ethyl ester | C(C)OC(=N)C=1C(=CC=CC1)C | C10H13NO
reactant | 1-methyl-1-benzoylhydrazine | CN(N)C(C1=CC=CC=C1)=O | C8H10N2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Methyl-3-(o-tolyl)-5-phenyl-1,2,4-triazole | Yield 32% | CN1N=C(N=C1C1=CC=CC=C1)C1=C(C=CC=C1)C | C16H15N3
